US05514680
To a solution of 1-acetamido-3,5-bis(trifluoromethyl)benzene (400 mg, 1.37 mmol) in concentrated H2SO4 (3 mL) at 0° C. was added dropwise 70% HNO3 (0.4 mL, Baker). The mixture was stirred at 0° C. for 0.5 h, then at room temperature for 3 h and it was poured into ice water (10 g). The precipitate was collected by filtration, affording 400 mg of crude product which contained two compounds by 1H NMR. It was separated on a column of silica gel, eluted with chloroform, to afford 134 mg of pure 1-acetamido-2-nitro-3,5-bis(trifluoromethyl)benzene as white long needles. mp: 190°-2° C., 1H NMR (CDCl3): δ2.226 (s, 3H), 7.765 (s, 1H), 7.978 (s, 1H); 8.918 (s, 1H).

reactant | 1-acetamido-3,5-bis(trifluoromethyl)benzene | 1.37 mmol, 400 mg | C(C)(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H7F6NO
reactant | HNO3 | 0.4 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
product | 1-acetamido-2-nitro-3,5-bis(trifluoromethyl)benzene | 134 mg | C(C)(=O)NC1=C(C(=CC(=C1)C(F)(F)F)C(F)(F)F)[N+](=O)[O-] | C10H6F6N2O3
